US04472411
90 g of 3-bromopropanol was added to 8 g of sodium acetate, to which 59.8 g of diketene was added dropwise controlling the reaction mixture at 40°-50° C. The mixture was further stirred at room temperature for 3 hours. The reaciton mixture was poured into ice water containing a diluted aqueous sodium hydroxide solution. The mixture was extracted with dichloromethane and the dichloromethane layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 102.6 g of 3-bromopropyl acetoacetate.

reactant | 3-bromopropanol | 90 g | BrCCCO | C3H7BrO
reactant | sodium acetate | 8 g | C(C)(=O)[O-].[Na+]
reactant | diketene | 59.8 g | C=C1CC(=O)O1 | C4H4O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-bromopropyl acetoacetate | 102.6 g | C(CC(=O)C)(=O)OCCCBr | C7H11BrO3
